US08017733B2
4-hydroxyphenylpropionaldehyde was prepared by a synthesis analogous to that for 4-hydroxyphenylacetaldehyde (Heterocycles, 2000, 53, 777-784). 3-(4-Hydroxyphenyl)-1-propanol (1.0 g, 6.6 mmol, Aldrich) was dissolved in dimethylsulfoxide (8 mL, Aldrich). TEA (2.0 mL, 14 mmol, Aldrich) was added slowly with stirring. Pyridine-sulfur trioxide (SO3.py) complex (2.3 g, 15 mmol, Aldrich) was completely dissolved in dimethylsulfoxide (9 mL, Aldrich) and this solution was added drop-wise to the alcohol, with vigorous stirring. After stirring for 1 h at room temperature, the reaction was diluted with CH2Cl2, then washed with ice-cold water. The organic layer was dried over Na2SO4, filtered, and concentrated to dryness. Purification using silica gel chromatography with hexane-ethyl acetate as eluent (5:1, then 2:1) yielded 745 mg (75%) of 4-hydroxyphenylpropionaldehyde.

reactant | 4-hydroxyphenylacetaldehyde | OC1=CC=C(C=C1)CC=O | C8H8O2
reactant | 3-(4-Hydroxyphenyl)-1-propanol | 6.6 mmol, 1.0 g | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | Pyridine-sulfur trioxide | C1=CC=NC=C1.O=S(=O)=O
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 9 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-hydroxyphenylpropionaldehyde | 745 mg, 75% | OC1=CC=C(C=C1)C(C=O)C | C9H10O2
